US03948906
3-Ethoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid
3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid (4.74 g.) was refluxed in ethanol (175 ml.) for 60 minutes; the mixture was filtered and the filtrate evaporated to give an oil. Trituration with ethyl acetate gave a solid (354 mg.), which was discarded. The ethyl acetate solution was extracted with sodium bicarbonate solution; the aqueous layer was then acidified and extracted with ethyl acetate. On drying and evaporation this solution gave a gum (3.34 g.), which was redissolved in hot ethyl acetate. Addition of a fourfold volume of ether gave a solid, which was discarded. The filtrate was concentrated and set aside at 0°; a white solid (548 mg.) crystallised out, m.p. 160°-165° (decomp.), [α]D25 = 157° (c 0.7, tetrahydrofuran) λλmax (NaHCO3 solution) 237nm (ε = 12,800), 260nm (ε = 8,000), νmax (CHBr3) 1770 (β-lactam), 1720 (COOH), 1659 and 1678 cm-1 (CONH). N.M.R. spectrum (D2O, with sodium bicarbonate) -O-CH2.CH3 systems centred at 6.5 and 8.83τ. (Found: C, 50.6; H, 4.8; N, 7.1; S, 16.3. C16H18N2O5S 2 requires C, 50.2; H, 4.7; N, 7.4; S, 16.8%). RF = 1.5 (System C), 1.35 (System B).

reactant | 3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid | 4.74 g | ClC(C(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O)Cl | C16H14Cl2N2O6S2
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 175 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Ethoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid | C(C)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C16H18N2O5S2
